US05342942
7-Amino-4,9-dihydro-4-methyl-9-oxopyrazolo[5,1-b]-quinazoline-2-carboxylic acid
The procedure of Sircar, et al., (J. Med. Chem., 24:735-742 (1981)) was followed. A mixture of 5-amino-2-methylaminobenzoic acid hydrazide (35.05 g, 0.194 mol) and 95% diethyl oxalacetate, sodium salt (47.33 g, 0.214 mol, Aldrich Chemical Co.) in 1 L of water was refluxed for 2 hours. The dark solution was cooled to room temperature and sodium carbonate (22.68 g, 0.214 mol) was added. The solution was refluxed for 1 hour, then allowed to cool to room temperature overnight. A small amount of solid formed. The mixture was filtered through a pad of Celite, the filtrate was cooled and acidified by dropwise addition of 10% hydrochloric acid. At a pH of about 4, a solid formed, the mixture was filtered, and the yellow-green solid was washed with water and vacuum-dried to give 29.65 g (59%) of the title compound, mp 249°-252° C., dec.

reactant | 5-amino-2-methylaminobenzoic acid hydrazide | 0.194 mol, 35.05 g | NC=1C=CC(=C(C(=O)NN)C1)NC | C8H12N4O
reactant | diethyl oxalacetate | C(CC(=O)C(=O)OCC)(=O)OCC | C8H12O5
reactant | sodium | 0.214 mol, 47.33 g | [Na] | Na
reactant | sodium carbonate | 0.214 mol, 22.68 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1 L | O | H2O
product | 7-Amino-4,9-dihydro-4-methyl-9-oxopyrazolo[5,1-b]-quinazoline-2-carboxylic acid | 29.65 g, 59% | NC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C(=O)O)=O | C12H10N4O3
